US07157447B2
N-(4-Fluoro-2-(2-(trimethylsilyl)ethynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
A solution of intermediate 174, N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.277 g, 0.49 mmol) in a mixture of N,N-dimethylformamide (3 ml) and piperidine (1.2 ml) was treated under argon with dichlorobis(triphenylphosphine)palladium(II) (0.020 g), triphenylphosphine (0.010 g), copper(I) iodide (0.010 g) followed by (trimethylsilyl)acetylene (0.21 ml, 1.47 mmol). The resulting mixture was sealed and heated at 50° C. for one hour. The reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Chromatography of the residue on silica gel (elution gradient of ethyl acetate in hexane) gave 0.164 g (63% yield) of the title material as a light yellow solid. 1HNMR 400 MHz (CDCl3) δ ppm: 0.27 (9H, s, SiCH3), 1.64 (6H, s, 2×CH3), 4.04 (4H, m, 2×CH2), 4.71 (2H, d, J=6.1 Hz, NCH2), 5.32 (2H, s, OCH2), 6.99 (1H, m, aromatic), 7.19 (1H,dd, J=2.6 Hz and J=9.1 Hz, aromatic), 7.3–7.37 (4H, m, aromatics), 7.48–7.51 (2H, m, aromatics), 7.75 (1H, broad t, NH). HRMS (ESI+) calculated for C29H33FN3O4Si [M+H+]: 534.2224. found: 534.2229.

reactant | N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.49 mmol, 0.277 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | triphenylphosphine | 0.010 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (trimethylsilyl)acetylene | 1.47 mmol, 0.21 ml | C[Si](C)(C)C#C | C5H10Si
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | piperidine | 1.2 ml | N1CCCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.020 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.010 g | [Cu]I
product | N-(4-Fluoro-2-(2-(trimethylsilyl)ethynyl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.164 g, 63% yield | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C#C[Si](C)(C)C | C29H32FN3O4Si
